US09376454B2
Step 2. Synthesis of 2-Hydroxy-3-[(quinoxaline-6-carbonyl)-amino]-3,4-dihydro-2H-1-oxa-2-bora-naphthalene-8-carboxylic acid
Prepared from 2-Methoxy-3-[2-[(quinoxaline-6-carbonyl)-amino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 364.0 (MH)+.

reactant | 2-Methoxy-3-[2-[(quinoxaline-6-carbonyl)-amino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(=O)C=3C=C1N=CC=NC1=CC3)OC)=O | C33H40BN3O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | 2-Hydroxy-3-[(quinoxaline-6-carbonyl)-amino]-3,4-dihydro-2H-1-oxa-2-bora-naphthalene-8-carboxylic acid | OB1OC2=C(C=CC=C2CC1NC(=O)C=1C=C2N=CC=NC2=CC1)C(=O)O | C18H14BN3O5
